US06025375
A solution of 2-(2-bromophenyl)-4,5-diphenyloxazole (3.0 g) in tetrahydrofuran (15 ml) was added dropwise to a stirred mixture of magnesium (213 mg) and a slight amount of iodine in tetrahydrofuran (15 ml) at room temperature under a nitrogen atmosphere and the resulting mixture was stirred at 70° C. for 3 hours. The reaction mixture was added slowly to a solution of 3-benzyloxybenzaldehyde (1.69 g) in tetrahydrofuran (6 ml) under dry ice-acetone cooling and a nitrogen atmosphere. The resulting mixture was stirred at the same temperature for 3 hours and at room temperature overnight, treated with ammonium chloride aqueous solution, and partitioned between ethyl acetate and 0.5N hydrochloric acid. The organic layer was washed with sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane - ethyl acetate) over silica gel to afford 2-(4,5-diphenyl-2-oxazolyl)-3'-benzyloxybenzhydrol (2.21 g) as paste.

reactant | 2-(2-bromophenyl)-4,5-diphenyloxazole | 3.0 g | BrC1=C(C=CC=C1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H14BrNO
reactant | magnesium | 213 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-benzyloxybenzaldehyde | 1.69 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-(4,5-diphenyl-2-oxazolyl)-3'-benzyloxybenzhydrol | 2.21 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(C(C2=CC(=CC=C2)OCC2=CC=CC=C2)O)C=CC=C1 | C35H27NO3
